US08431569B2
Step 1. 1-[(1-Cyclopropylethyl)amino]-8-fluoro-5H-pyrido[4,3-b]indole-4-carbonitrile
1-Chloro-8-fluoro-5H-pyrido[4,3-b]indole-4-carbonitrile (400 mg, 1.63 mmol), 1-cyclopropylethanamine (594 mg, 4.89 mmol), Pd2(dba)3 (74.6 mg, 0.081 mmol), BINAP (152 mg, 0.24 mmol), and sodium tert-butoxide (782 mg, 8.14 mmol) were placed in a sealed tube. The mixture was evacuated and backfilled with argon three times. Fully degassed DME (8.1 ml) was added. The tube was sealed and the reaction was heated to 85° C. and stirred for 20 hrs. The reaction was cooled to ambient temperature, concentrated in vacuo, and directly purified via flash chromatography to afford the title compound. LRMS (APCI) calc'd for (C17H16FN4) [M+H]+, 295.1. found 295.0.

reactant | 1-Chloro-8-fluoro-5H-pyrido[4,3-b]indole-4-carbonitrile | 1.63 mmol, 400 mg | ClC1=NC=C(C=2NC=3C=CC(=CC3C21)F)C#N | C12H5ClFN3
reactant | 1-cyclopropylethanamine | 4.89 mmol, 594 mg | C1(CC1)C(C)N | C5H11N
reactant | BINAP | 0.24 mmol, 152 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 8.14 mmol, 782 mg | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | 0.081 mmol, 74.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[(1-Cyclopropylethyl)amino]-8-fluoro-5H-pyrido[4,3-b]indole-4-carbonitrile | C1(CC1)C(C)NC1=NC=C(C=2NC=3C=CC(=CC3C21)F)C#N | C17H15FN4
